US03954754
EXAMPLE 69: 3-Cyclohexylidenehydrazino-5,6,7,8-tetrahydro-6-(p-toluoyl)pyrido[4,3-c]pyridazine
1.0 g of 3-hydrazino-5,6,7,8-tetrahydro-6-(p-toluoyl)pyrido[4,3-c]pyridazine and 10 cc of cyclohexanone are heated at reflux in an oil bath of 180° for 1 hour. The title compound has a M.P. of 208°-210° (decomp., from 95% ethanol).

reactant | 3-hydrazino-5,6,7,8-tetrahydro-6-(p-toluoyl)pyrido[4,3-c]pyridazine | 1.0 g | N(N)C1=CC2=C(N=N1)CCN(C2)C(=O)C2=CC=C(C=C2)C | C15H17N5O
solvent | cyclohexanone | 10 cc | C1(CCCCC1)=O | C6H10O
product | 3-Cyclohexylidenehydrazino-5,6,7,8-tetrahydro-6-(p-toluoyl)pyrido[4,3-c]pyridazine | C1(CCCCC1)=NNC1=CC2=C(N=N1)CCN(C2)C(=O)C2=CC=C(C=C2)C | C21H25N5O
